US04908394
To a mixture of 106.0 g of 2,4-dinitrobenzoic acid in 200 ml of toluene were added 10.0 g of concentrated sulfuric acid and 95.0 g of 3-chloropropanol. The mixture was refluxed for 4 hrs and the resulting water removed by azeotropic distillation. After this period the mixture was cooled to room temperature and washed with 250 ml of an aqueous 5% NaHCO3 solution followed by two 200 ml water washings. The toluene was removed at reduced pressure to yield 146 g of (3-chloropropyl)-2,4-dinitrobenzoate, mp 40° C.

reactant | 2,4-dinitrobenzoic acid | 106.0 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O6
reactant | sulfuric acid | 10.0 g | S(O)(O)(=O)=O | H2O4S
reactant | 3-chloropropanol | 95.0 g | ClCCCO | C3H7ClO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (3-chloropropyl)-2,4-dinitrobenzoate | 146 g | ClCCCOC(C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C10H9ClN2O6
